US07960419B2
Combine 3-fluoro-4-methoxybenzonitrile (25.000 g, 165.563 mmol) and acetonitrile (13.576 g, 331.126 mmol) and THF (33 mL). Add potassium t-butoxide in THF (1 M, 182.1 mL, 182.1 mmol) with stirring. Stir overnight. Dilute with satd NaHCO3 and extract with EtOAc. Evaporate the organic solution and crystallize from hexane/EtOAc to afford 3-amino-3-(3-fluoro-4-methoxyphenyl)acrylonitrile. Yield: 78.6%. ES-MS: m/e 193.0 (m+1).

reactant | 3-fluoro-4-methoxybenzonitrile | 165.563 mmol, 25.000 g | FC=1C=C(C#N)C=CC1OC | C8H6FNO
reactant | acetonitrile | 331.126 mmol, 13.576 g | C(C)#N | C2H3N
reactant | THF | 33 mL | C1CCOC1 | C4H8O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 182.1 mmol, 1 M, 182.1 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-amino-3-(3-fluoro-4-methoxyphenyl)acrylonitrile | Yield: 78.6% | NC(=CC#N)C1=CC(=C(C=C1)OC)F | C10H9FN2O
